US05616610
e) (R)-8-Fluoro-3-(N-isopropyl-N-propylamino)-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran
(R)-8-Fluoro-3-(N-isopropyl-N-propylamino)-5-hydroxy-3,4-dihydro-2H-1-benzopyran (0.71 g, 2.66 mmol) and collidine (0.49 mL, 3.72 mmol) were dissolved in anhydrous CH2Cl2 (25 mL) and cooled to -40° C. Trifluoromethanesulfonic anhydride (0.54 mL, 3.2 mmol) was added dropwise and allowed to warm to ambient temperature, and after coming to 0° C. the reaction was done. The reaction was diluted with CH2Cl2 and washed with a saturated aqueous NaHCO3 solution, dried (MgSO4), filtered, and evaporated in vacuo to give a crude residue. Chromatography on silica (eluent: CH2Cl2) gave 0.82 g (77% yield) of the title compound as a clear oil. [α]21D =-85.5° (C=0.1, CHCl3). GC-MS (70 eV) M=399 (6%).

reactant | (R)-8-Fluoro-3-(N-isopropyl-N-propylamino)-5-hydroxy-3,4-dihydro-2H-1-benzopyran | 2.66 mmol, 0.71 g | FC1=CC=C(C=2C[C@H](COC21)N(CCC)C(C)C)O | C15H22FNO2
reactant | collidine | 3.72 mmol, 0.49 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | Trifluoromethanesulfonic anhydride | 3.2 mmol, 0.54 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (R)-8-Fluoro-3-(N-isopropyl-N-propylamino)-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 0.82 g, 77% yield | FC1=CC=C(C=2C[C@H](COC21)N(CCC)C(C)C)OS(=O)(=O)C(F)(F)F | C16H21F4NO4S
